US04409214
To a solution of benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate (syn isomer) (3.36 g) and anisole (2.1 g) in methylene chloride (20 ml) was added trifluoroacetic acid (8.0 g) under ice-cooling with stirring, and the stirring was continued at ambient temperature for an hour. After removal of the solvent, the residue was dissolved in a mixture of ethyl acetate and water. To the separated ethyl acetate solution was added water, followed by adjusting to pH 7 with a saturated aqueous sodium bicarbonate. To the separated aqueous solution was added ethyl acetate, followed by adjusting to pH 2 with 10% hydrochloric acid. The ethyl acetate layer was separated out, washed with an aqueous sodium chloride and then dried over anhydrous magnesium sulfate. Removal of the solvent gave 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (1.6 g).

reactant | benzhydryl 7-(4-bromo-3,3-diethoxy-2-methoxyiminobutyramido)-3-vinyl-3-cephem-4-carboxylate | 3.36 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC)(OCC)OCC | C31H34BrN3O7S
reactant | anisole | 2.1 g | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 8.0 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7-(4-bromo-2-methoxyiminoacetoacetamido)-3-vinyl-3-cephem-4-carboxylic acid | 1.6 g | BrCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOC)=O | C14H14BrN3O6S
